US07241792B2
To a solution of 2-benzyl-1a,2,5,5a-tetrahydro-1H-2,3-diaza-cyclopropa[a]pentalene-4-carbonitrile (11.1 g, 47.2 mmol) in DMF (125 mL) was added ZnBr2 (18.4 g, 70.6 mmol) followed by NaN3 (12.2 g, 188 mmol). The mixture was heated to 120° C. and stirred for 18 h under N2 atmosphere. The reaction was cooled to rt and the DMF was removed in vacuo. The crude residue was diluted with EtOAc (200 mL) and HCl (3N aq., ˜100 mL) and stirred for 10 min. The layers were separated and the aqueous phase was back-extracted with EtOAc (150 mL). The combined organics were washed with NaOH (1M aq., 2×250 mL) and the organic layers were discarded. The basic aqueous phase was acidified with 6 N HCl to pH ˜2 and was extracted with EtOAc (2×250 mL). The extracts were washed with brine (150 mL), dried over MgSO4, filtered, and concentrated to give 2-benzyl4-(2H-tetrazol-5-yl)-1a,2,5,5a-tetrahydro-1H-2,3-diaza-cyclopropa[a]pentalene as a light brown solid. 1H NMR (400 MHz, MeOD): δ 7.33 (5H, m), 5.42 (1H, d, J=14.8 Hz), 5.35 (1H, d, J=15.2 Hz), 3.01 (1H, dd, J=16.4, 6.4 Hz), 2.88 (1H, d, J=17.6 Hz), 2.28 (1H, m), 2.11 (1H, M), 1.14 (1H, m), 0.33 (1H, m). HPLC/MS: Alltech® Prevail C18 column (5μ, 50×4.6 mm), 5% v/v CH3CN (containing 1% v/v TFA) in H2O (containing 1% v/v TFA) gradient to 99% v/v CH3CN in H2O, 3.5 ml/min, tr=2.14 min, ESI+=279.3 (M+H).

reactant | 2-benzyl-1a,2,5,5a-tetrahydro-1H-2,3-diaza-cyclopropa[a]pentalene-4-carbonitrile | 47.2 mmol, 11.1 g | C(C1=CC=CC=C1)N1N=C(C=2CC3C(C12)C3)C#N | C15H13N3
reactant | NaN3 | 188 mmol, 12.2 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 125 mL | CN(C)C=O | C3H7NO
catalyst | ZnBr2 | 70.6 mmol, 18.4 g | [Zn+2].[Br-].[Br-]
product | 2-benzyl4-(2H-tetrazol-5-yl)-1a,2,5,5a-tetrahydro-1H-2,3-diaza-cyclopropa[a]pentalene | C(C1=CC=CC=C1)N1N=C(C=2CC3C(C12)C3)C=3N=NNN3 | C15H14N6
